US09290476B2
(4-Methoxyphenyl)(pyridin-3-yl)methanone
The title compound was prepared analogously to the method in Intermediate 25: step b using (4-methoxyphenyl)(pyridin-3-yl)methanol (Intermediate 31: step a) in place of (1-methyl-1H-imidazol-5-yl)(pyridin-2-yl)methanol.

reactant | (4-methoxyphenyl)(pyridin-3-yl)methanol | COC1=CC=C(C=C1)C(O)C=1C=NC=CC1 | C13H13NO2
reactant | (1-methyl-1H-imidazol-5-yl)(pyridin-2-yl)methanol | CN1C=NC=C1C(O)C1=NC=CC=C1 | C10H11N3O
product | (4-Methoxyphenyl)(pyridin-3-yl)methanone | COC1=CC=C(C=C1)C(=O)C=1C=NC=CC1 | C13H11NO2
